US09315495B2
To a solution of ethyl 5-(benzyloxy)-1H-indole-2-carboxylate (5.00 g, 16.93 mmol) and methyl iodide (1.14 mL, 18.28) in 17 mL dimethylformamide was added potassium carbonate (2.57 g, 18.62 mmol). The resulting suspension was stirred for 2 h at 150° C. in a sealed reaction vessel. Solids were filtered and the liquor concentrated to give crude ethyl 5-(benzyloxy)-1-methyl-1H-indole-2-carboxylate. Used without further purification or characterization.

reactant | ethyl 5-(benzyloxy)-1H-indole-2-carboxylate | 16.93 mmol, 5.00 g | C(C1=CC=CC=C1)OC=1C=C2C=C(NC2=CC1)C(=O)OCC | C18H17NO3
reactant | methyl iodide | 1.14 mL | CI | CH3I
reactant | potassium carbonate | 18.62 mmol, 2.57 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 17 mL | CN(C=O)C | C3H7NO
product | ethyl 5-(benzyloxy)-1-methyl-1H-indole-2-carboxylate | C(C1=CC=CC=C1)OC=1C=C2C=C(N(C2=CC1)C)C(=O)OCC | C19H19NO3
